US07368578B2
To a solution of 2-tert-butyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-oxazole (2.15 g) in methanol (25 mL) was added concentrated hydrochloric acid (1.00 mL) at room temperature, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was evaporated under reduced pressure, and the residue was washed with diethyl ether to give 4-[(E)-2-(2-tert-butyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol-hydrochloride (1.74 g, yield 83%) as orange crystals. melting point: 220-221° C.

reactant | 2-tert-butyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-oxazole | 2.15 g | C(C)(C)(C)C=1OC=C(N1)\C=C\C=1C(=NN(C1)C1=CC=CC=C1)OCOC | C20H23N3O3
reactant | hydrochloric acid | 1.00 mL | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | 4-[(E)-2-(2-tert-butyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol-hydrochloride | 1.74 g, yield 83% | Cl.C(C)(C)(C)C=1OC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O | InChI=1S/C18H19N3O2.ClH/c1-18(2,3)17-19-14(12-23-17)10-9-13-11-21(20-16(13)22)15-7-5-4-6-8-15;/h4-12H,1-3H3,(H,20,22);1H/b10-9+;
